Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lo___
 
Attending: ___.
 
Chief Complaint:
Knee pain s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with epilepsy, ataxia, blindness secondary to 
conversion disorder was admitted from the ED with knee pain s/p 
fall. 

She reports that 2 days ago she fell while walking out of an 
elevator sometime after a tiring physical therapy session. She 
said her knees simply "folded underneath" her. She fell 
primarily onto her knees and elbow, hitting her left knee the 
hardest. She was evaluated at ___ at that 
time, Knee XRs were negative, and she was discharged. Then on 
the day prior to admission, she felt increasingly unsteady on 
her feet. She initially went to ___ and was 
transferred to ___ per her request due to difficulty 
ambulating and persistent knee pain. The ED notes at ___ 
and the ___ ED are somewhat contradictory to this story, 
stating that she fell initially while trying to put on her knee 
braces after ___. They also noted that on the day of ED 
presentation, she was simply walking by the ___ 
when she presented there due to difficulty ambulating.  

Upon arrival in the ED, temp 97.8, HR 68, BP 139/91, RR 16, and 
pulse ox 100% on room air. Exam was notable for dyscoordinated 
lower extremity movements. Labs were unremarkable. Knee XR was 
negative for fracture. She received ibuprofen 600mg PO x 1, 
percocet x 2, and potassium repletion. She was evaluated by 
physical therapy who recommended discharge to rehab. She was 
initially placed in the observation unit, and they were planning 
to discharge her from the ED directly to rehab. Unfortunately 
this could not be arranged from the ED, and she was admitted for 
further pain management and assistance with facilitating 
discharge to rehab.

Review of systems:  
(+) Per HPI. Knee Pain, ataxia, near daily falls, decreased 
vision, neurogenic bladder requiring qid straight cath 
(-) Denies fever, chills, night sweats, weight loss, headache, 
sinus tenderness, rhinorrhea, congestion, cough, shortness of 
breath, chest pain or tightness, palpitations, nausea, vomiting, 
constipation, abdominal pain, change in bladder habits, dysuria, 
arthralgias, or myalgias.  

Primary Neurologist: Dr. ___
PCP: Dr. ___: Dr. ___ at ___
 
Past Medical History:
1. Blindness reportedly secondary to conversion disorder
2. Ataxia reportedly secondary to conversion disorder
3. Neurogenic bladder
- requiring qid straight caths
4. PTSD
5. ADHD
6. Seizure disorder
7. Asthma
Patient denies any history of depression, although this was 
listed on her problem list. 
 
Social History:
___
Family History:
Patient is adopted and does not know her family history in any 
detail.
Father - alcoholism
 
Physical ___:
T 96.5 / BP 123/90 / HR 76 / RR 18 / Pulse ox 99% RA
Gen: no acute distress, lying comfortably in bed
HEENT: Clear OP, MMM, PERRL, EOMI
NECK: Supple, No LAD, No JVD
CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
LUNGS: CTA, BS ___, No W/R/C
ABD: Soft, NT, ND. NL BS.  No HSM
EXT: No edema. left knee with tenderness to palpation 
anteriorly. No effusion palpated. 
SKIN: No rash
NEURO: A&Ox3. Appropriate. CN ___ intact, although reports 
diminished vision, able to see shapes and outlines but with no 
details.  ___ strength throughout. 3+ patellar reflexes 
bilaterally. Normal coordination. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
OSH LABS: 
___ - 
Na 135 / K 3.3 / Cl 100 / CO2 25 / BUN 8  
TB .5 / Alk Phos 83 / AST 17 / ALT 14 
Serum EtOH < 10
Serum Carbamazepine < 1

___ 01:35AM BLOOD WBC-6.8 RBC-4.51 Hgb-13.3 Hct-38.3 MCV-85 
MCH-29.4 MCHC-34.6 RDW-13.0 Plt ___
___ 01:35AM BLOOD Neuts-59.9 ___ Monos-5.0 Eos-0.4 
Baso-0.4
___ 01:35AM BLOOD Glucose-93 UreaN-10 Creat-0.7 Na-142 
K-3.2* Cl-105 HCO3-23 AnGap-17
___ 01:35AM BLOOD Calcium-9.7 Phos-2.9# Mg-2.3
___ 01:35AM BLOOD Carbamz-1.9*
___ 12:42AM URINE Color-Yellow Appear-Clear Sp ___
___ 12:42AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-150 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

KNEE (AP, LAT & OBLIQUE) LEFT Study Date of ___ 2:26 AM 
IMPRESSION: No fracture or dislocation. 
 

 
Brief Hospital Course:
___ female with history of ataxis and blindness related to 
conversion disorder was admitted from the ED with knee pain s/p 
fall. 

1. Knee Pain
Etiology of her knee pain appears likely related to her recent 
fall. No evidence of fracture or effusion on exam or Xray. 
Receiving tylenol for pain.

2. Ataxia and Frequent Falls
Etiology remains unclear, as she has had extensive work-up in 
the past. Aprreciate ___ input. She will need rehab placement as 
she continues to fall at home.

3. Hypokalemia- on admission, the patient had mild hypokalemia 
(k=3.2), this was repleted orally. Suspect that this is related 
to her recent diarrhea or her medications.

4. Chronic Stable Asthma: Stable during this admission, 
continued on advair with albuterol nebs prn

5. Seizure Disorder NOS: Stable, reports her last seizure was 
over a year ago. Continued on carbamazepine and lamotrigine

6. PTSD: Stable, continued on catapres and prazosin

7. ADHD: Unable to obtain vyvanse, would restart outpatient.

# PPx: heparin SC, bowel regimen
# CODE: FULL CODE
# COMM: Patient; ___ ___

 
 
Medications on Admission:
1. Advair 500/50 1 puff bid
2. Catapres .1mg PO bid
3. Prazosin 1mg PO qhs
4. Carbamazepine 200mg PO bid
5. Lamotrigine 200mg PO bid
6. Albuterol nebs prn
7. Vyvanse 40mg PO daily

 
Discharge Medications:
1. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. Clonidine 0.1 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
5. Prazosin 1 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
6. Carbamazepine 200 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
7. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
8. Vyvanse 40 mg Capsule Sig: One (1) Capsule PO daily ().  
9. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain.  
10. Oxycodone 5 mg Capsule Sig: One (1) Capsule PO every ___ 
hours as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Primary diagnosis: 1. knee pain
Secondary diagnosis: 1. Ataxia and frequent falls
2. Seizure disorder
3. Blindness related to conversion disorder
4. Post Traumatic Stress Disorder
5. Attention Deficit Hyperactivity Disorder 
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted to the hospital for frequent falls. You will 
be discharged to a rehabilitation facility. There were no 
changes made to your medication regimen.
 
Followup Instructions:
___